Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
vertigo
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with atrial fibrillation (on 
Xarelto) that presented to the ED after being transferred from 
urgent care where he presented for evaluation of persistent 
vertigo.  Patient was in usual state of health until yesterday 
morning  when he woke up and had an episode of vertigo.  Of 
note, patient has suffered from vertigo for the past ___ years 
after experiencing a mild concussion.  Per patient, vertigo 
episodes usually lasts from seconds to a minute before self 
resolving but this time symptoms have persisted for more than 36 
hours.  While at home he also noted that he had trouble walking, 
as he was stumbling and felt unsteady due to the vertigo.  For 
this reason he decided to go to an urgent care for evaluation 
where he had a head CT done which was unremarkable but on exam 
was noted to have some trouble with rapid alternating movements 
and an unsteady gait.  For this reason he was transferred to our 
ED for further evaluation and management.  While in the ED 
patient continues to feel dizzy/vertiginous but if he keeps his 
head still symptoms would improve.  Also, he has been 
experiencing bilateral ear ringing for the past day.
 
 
Past Medical History:
Atrial Fibrillation dx ___ yrs ago after vasovagal syncope.
Hyperlipidemia.  
ACL reconstruction

 
Social History:
___
Family History:
No fam h/o early stroke; father with MI in ___
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION 
 Vitals:  T:98.3    HR:59    BP:130/66    RR:19    SaO2: 100% RA 

 General:  NAD 
 HEENT: NCAT,  no oropharyngeal lesions, neck supple 
 ___: RR 
 Pulmonary: Breathing comfortably on RA
 Abdomen: Soft, NT, ND, +BS, no guarding 
 Extremities: Warm, no edema

Neurologic Examination: 
 - Mental status: Awake, alert, oriented x 3. Able to relate 
history without difficulty. Attentive, able to name ___ backward 
without difficulty. Speech is fluent with full sentences, intact 
repetition, and intact verbal comprehension. Naming intact.  No 
paraphasias.  No dysarthria. Normal prosody. Able to register 3 
objects and recall ___ at 5 minutes. No apraxia. No evidence of 
hemineglect. No left-right confusion. Able to follow both 
midline and appendicular commands. 

 - Cranial Nerves: PERRL 3->2 brisk. VF full to number counting. 
EOMI, no nystagmus. V1-V3 without deficits to light touch 
bilaterally. No facial movement asymmetry. Hearing intact to 
finger rub bilaterally.  Palate elevation symmetric. 
SCM/Trapezius strength ___ bilaterally. Tongue midline. 

Head impulse test: negative
Skew deviation test: negative
___ test: positive

 - Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis. 
   [___] 
 L    5    5    5    5    5    5   5    5    5   5    5    5 
 R    5    5    5    5    5    5   5    5    5   5    5    5 

 - Reflexes:  
    [Bic] [Tri] [___] [Quad] [Gastroc] 
  L  2+    2+     2+      2+       1 
  R  2+    2+     2+      2+       1  
 Plantar response flexor bilaterally 

 - Sensory: No deficits to light touch, pin, or proprioception 
bilaterally.  No extinction to DSS. 

 - Coordination: No dysmetria with finger to nose testing 
bilaterally. Good speed and intact cadence with rapid 
alternating movements. 

 - Gait: Initially felt unsteady and appeared wide-based but 
corrected.  Didn't test tandem gait.

DISCHARGE PHYSICAL EXAM
Vitals: Tm 97.4, HR 49-57 (sinus brady), BP 141-172/78-86, RR 
___, >95% RA
General:  NAD, sitting up in bed
HEENT: NCAT,  no oropharyngeal lesions, neck supple 
___: RRR, well perfused
Pulmonary: Breathing comfortably on RA
Abdomen: Soft, NT, ND 
Extremities: Warm, no edema

Neuro: 

MS: Awake, alert, oriented, able to recount history well, 
language fluent, no paraphasic errors, no apraxia or neglect. 

CN: Pupils reactive, L 4to2mm, R 3to2mm; EOMI without nystagmus, 
VFF, no vertical skew, +head impulse test to right, decreased 
hearing in left ear, with Weber test louder in right ear; face 
symmetric, facial sensation intact, trapezius/SCM intact, palate 
symmetric, tongue midline

Motor: Normal bulk and tone. No drift. No tremor or asterixis. 
   [___] 
 L    5    5    5    5    5    5   5    5    5   5    5    5 
 R    5    5    5    5    5    5   5    5    5   5    5    5 

 - Reflexes:  
    [Bic] [Tri] [___] [Quad] [Gastroc] 
  L  1     1      1      1      1 
  R  1     1      1      1      1  
 Plantar response flexor bilaterally 

 - Sensory: No deficits to light touch bilaterally.  No 
extinction to DSS. 

 - Coordination: FNF and HKS intact. Good speed and intact 
cadence with rapid alternating movements. 

 - Gait:  Normal based, Unterberger negative, Romberg negative; 
leans slightly to the left with tandem gait

 
Pertinent Results:
___ 12:45AM BLOOD WBC-7.0 RBC-4.92 Hgb-14.4 Hct-43.5 MCV-88 
MCH-29.3 MCHC-33.1 RDW-12.7 RDWSD-41.1 Plt ___
___ 12:45AM BLOOD Neuts-50.4 ___ Monos-11.0 Eos-4.0 
Baso-0.9 Im ___ AbsNeut-3.51 AbsLymp-2.33 AbsMono-0.77 
AbsEos-0.28 AbsBaso-0.06
___ 12:45AM BLOOD Glucose-94 UreaN-15 Creat-1.0 Na-141 
K-4.0 Cl-103 HCO3-27 AnGap-15

IMAGING: 

CT/CTA ___:
NECT: No acute intracranial abnormalities. 
CTA: 
Patent circle ___ and its major tributaries. Mild outpouching 
of M1 
segment on the right may represent an artifact (___). 
Atherosclerotic disease in the left ICA at the level of C2 
(3:195). Intense streak artifacts from the dental amalgam limits 
evaluation at the level of C2-3 where the left ICA appears 
attenuated (3:180). This may be a combination of narrowing 
secondary to atherosclerotic disease and artifact. The right ICA 
is also attenuated at the same level, though to a lesser degree. 
Proximal and distal reconstitution bilaterally. 
Right dominant vertebral artery system. No dissection. 
  
1.7 cm left thyroid nodule. Nonemergent ultrasound follow up 
recommended. 

FINDINGS:  
MRI BRAIN ___: 
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift or infarction. The ventricles and sulci are mildly 
prominent, suggesting age-related volume loss. Incidental note 
is made a cavum septum pellucidum et vergae an anatomical 
variant. Minimal periventricular FLAIR hyperintensities are 
nonspecific, but likely sequela of chronic small vessel ischemic 
disease.  
There is no abnormal enhancement after contrast administration. 
  
MRA BRAIN: 
The intracranial vertebral and internal carotid arteries and 
their major 
branches appear normal without evidence of stenosis, occlusion, 
or aneurysm 
formation. 
  
MRA NECK: 
The common, internal and external carotid arteries appear 
normal. There is no evidence of internal carotid artery stenosis 
by NASCET criteria. The origins of the great vessels, subclavian 
and vertebral arteries appear normal bilaterally. 
  
The left vertebral artery is hypoplastic, given the dominant 
right system.  The left vertebral artery itself terminates in 
the left ___, and remains patent throughout its course. No 
definite evidence of dissection. 
  
IMPRESSION:  
  
1. No evidence of infarction. 
  
2. Hypoplastic left vertebral artery which terminates in the 
left ___, but remains patent throughout its course. No definite 
evidence of dissection. 
  

 
Brief Hospital Course:
Mr. ___ is a ___ right-handed man with atrial 
fibrillation (on Xarelto) and remote concussion who presented 
with vertigo for about 36 hours with nausea and gait 
unsteadiness.  He was noted to have decreased hearing in the 
left ear as well as a sense of fullness in the right ear.  Head 
CT was unremarkable and MRI showed no evidence of stroke.  CTA 
showed a hypoplastic left vertebral artery but no evidence of 
dissection or stenosis.  His symptoms improved by the morning 
after admission and he had no further deficits.  Most likely 
diagnosis is peripheral etiology of vertigo, vestibular neuritis 
most likely.  No evidence of stroke or mass.  He was continued 
on his home Xarelto and flecanide for atrial fibrillation.  He 
will have close follow-up with Audiology for a hearing test and 
in Neurology clinic.
 

Discharge Issues:
1. Audiology appointment to evaluate hearing
2. Non-emergent ultrasound follow up recommended for 1.7 cm left 
thyroid nodule.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rivaroxaban 20 mg PO DAILY 
2. Metoprolol Succinate XL 50 mg PO DAILY 
3. Flecainide Acetate 150 mg PO Q12H 
4. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Flecainide Acetate 150 mg PO Q12H  
2.  Metoprolol Succinate XL 50 mg PO DAILY  
3.  Rivaroxaban 20 mg PO DAILY  
4.  Simvastatin 20 mg PO QPM  
5.Outpatient Physical Therapy
Vestibular Physical Therapy
Dx: vertigo
Please eval and treat

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
vestibular neuropathy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to the hospital with vertigo (sensation of 
room-spinning).  You had a brain MRI that did not show evidence 
of stroke or other explanation for your symptoms.  You likely 
have a peripheral (inner ear)

Please take your medications as prescribed.

Please follow-up with Neurology and your primary care physician.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___